US07067537B2
i) Production of 5-bromonicotinamide
5-Bromonicotinic acid (5.05 g), ammonium chloride (2.10 g), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (7.30 g), 1-hydroxy-1H-benzotriazole monohydrate (3.90 g) and triethylamine (5.5 ml) were suspended in DMF (40 ml) and the mixture was stirred at room temperature for 16 hrs. Ethyl acetate and water were added to the reaction mixture and the organic layer was washed with saturated aqueous sodium hydrogen carbonate, water and saturated brine. The organic layer was concentrated by drying and recrystallized from ethyl acetate to give the title compound (2.33 g) as colorless needle crystals.

reactant | 5-Bromonicotinic acid | 5.05 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | ammonium chloride | 2.10 g | [Cl-].[NH4+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 7.30 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 3.90 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
product | 5-bromonicotinamide | 2.33 g | BrC=1C=NC=C(C(=O)N)C1 | C6H5BrN2O
